US04612311
To 18.2 g of 3-amino-7-chloro-1-phenyl-1,2,4-benzothiadiazine-1-oxide is slowly added with stirring a solution of 16.1 g of mesitylene sulfonylhydroxylamine in 90 ml dichloromethane at 0° C. Stirring is continued for one hour at room temperature. Thereafter the precipitate is sucked off and washed with diethylether carefully. To the dry precipitate (30.4 g), suspended in 200 ml dioxane, 60 ml of 20% aqueous sodium hydroxide is added with stirring at 0° C. Stirring is continued for three hours at room temperature. Thereafter the precipitate is sucked off and the filtrate is poured into ice water. The precipitate is sucked off and crystallized from ethanol. A 16.0 g of colorless 4-amino-7-chloro-3,4-dihydro-3-imino-1-phenyl-1,2,4-benzothiadiazine-1-oxide, m. pt. 168° C., are obtained. A 6.5 g thereof in 25 ml ethyl oxalate chloride is heated for five hours to 80° C. The excess of acid chloride is distilled and the residue partitioned in dichloromethane/aqueous sodium hydrogencarbonate. The organic solvent is distilled in vacuo and the residue crystallized from ethanol, recrystallized from toluene and again from ethanol. A 3.5 g colorless crystals are obtained, m. pt. 239° C.

reactant | 3-amino-7-chloro-1-phenyl-1,2,4-benzothiadiazine-1-oxide | 18.2 g | NC=1NS(C2=C(N1)C=CC(=C2)Cl)(C2=CC=CC=C2)=O | C13H12ClN3OS
reactant | mesitylene sulfonylhydroxylamine | 16.1 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NO)C | C9H13NO3S
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 4-amino-7-chloro-3,4-dihydro-3-imino-1-phenyl-1,2,4-benzothiadiazine-1-oxide | 16.0 g | NN1C(NS(C2=C1C=CC(=C2)Cl)(C2=CC=CC=C2)=O)=N | C13H13ClN4OS
